US06919331B2
A solution of {3-[5-(N-hydroxycarbamimidoyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester (1.4 g, 2.76 mmol) in AcOH (50 ml) was added to 10% Pd/C (166 mg) and hydrogenated at 50 psi for 4 h then the mixture was filtered and washed with MeOH. The solvent was removed and the residue triturated with EtOAc to give 1 g (74%) of {3-[5-carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester as a white solid.

reactant | {3-[5-(N-hydroxycarbamimidoyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester | 2.76 mmol, 1.4 g | C(C)(C)(C)OC(CN1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C(NO)=N)=O)=O | C27H34N6O4
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
catalyst | Pd/C | 166 mg | [Pd] | Pd
product | {3-[5-carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester | 1 g, 74% | C(C)(C)(C)OC(CN1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C(N)=N)=O)=O | C27H34N6O3
